US04921867
2-[6-[(6-Bromohexyl)oxy]hexyl]-4-pyridinecarboxamide
A solution of 2-[6-[(6-bromohexyl)oxy]-1-hexynyl]-4-pyridinecarboxamide (1.04 g) in ethanol (20 ml) was hydrogenated over pre-hydrogenated 10% palladium oxide on carbon (50% aqueous paste, 115 mg). The mixture was filtered through hyflo and the filtrate evaporated to give the title compound as a pale yellow solid (1.05 g), m.p. 73°-75°.

reactant | 2-[6-[(6-bromohexyl)oxy]-1-hexynyl]-4-pyridinecarboxamide | 1.04 g | BrCCCCCCOCCCCC#CC1=NC=CC(=C1)C(=O)N | C18H25BrN2O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | 2-[6-[(6-Bromohexyl)oxy]hexyl]-4-pyridinecarboxamide | 1.05 g | BrCCCCCCOCCCCCCC1=NC=CC(=C1)C(=O)N | C18H29BrN2O2
